US08703805B2
To a solution of 5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole (2.05 g, 7 mmol) and 1-bromo-2-chloroethane (0.71 mL, 1.2 equiv) in DMF (30 mL) was added NaH (0.42 g, 60%, 1.5 equiv) and the mixture was stirred overnight at 20° C. The reaction was quenched by water. Solid was collected and washed by water and dried under high vacuum to give a crude, which was purified by column chromatography eluting with MeOH-DCM (6:96) to give 5-(4-bromophenyl)-1-(2-chloroethyl)-3-(trifluoromethyl)-1H-pyrazole (400 mg) as a minor product. 1H-NMR (CDCl3): δ 7.64 (d, 1H), 7.31 (d, 1H), 6.54 (s, 1H), 4.41 (t, 2H), 3.93 (t, 2H).

reactant | 5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole | 7 mmol, 2.05 g | BrC1=CC=C(C=C1)C1=CC(=NN1)C(F)(F)F | C10H6BrF3N2
reactant | 1-bromo-2-chloroethane | 0.71 mL, 1.2 equiv | BrCCCl | C2H4BrCl
reactant | NaH | 0.42 g, 1.5 equiv | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-(4-bromophenyl)-1-(2-chloroethyl)-3-(trifluoromethyl)-1H-pyrazole | 400 mg | BrC1=CC=C(C=C1)C1=CC(=NN1CCCl)C(F)(F)F | C12H9BrClF3N2
